US05804585
C. N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3,4-(methylenedioxy)benzoyl]thieno[2,3-b]pyridine-3-sulfonamide
To a solution of N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-3,4-(methylenedioxy)benzyl]thieno-[2,3-b]pyridine-3-sulfonamide (0.15 g, 0.27 mmoles) in CH2Cl2 (3 ml) was added manganese dioxide (72 mg, 0.83 mmoles). The black mixture was stirred 24 hours at ambient temperature then filtered and concentrated to collect 0.15 g (96%) of the title compound as a light yellow solid.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-3,4-(methylenedioxy)benzyl]thieno-[2,3-b]pyridine-3-sulfonamide | 0.27 mmoles, 0.15 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=CC1=C(C=C2)OCO1)O)COCCOC)C | C23H22ClN3O8S2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.83 mmoles, 72 mg | [O-2].[O-2].[Mn+4]
product | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3,4-(methylenedioxy)benzoyl]thieno[2,3-b]pyridine-3-sulfonamide | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=CC1=C(C=C2)OCO1)=O)COCCOC)C | C23H20ClN3O8S2
